US04416683
A solution of the 5-amino-isothiazole and 1.1 g of 2,6-dimethoxybenzoyl chloride in 50 ml of toluene was heated at reflux for two hours, during which time a precipitate formed. The precipitate was collected by filtration and dried to give 340 mg of N-[3-(1,1-dimethylethyl)-5-isothiazolyl]-2,6-dimethoxybenzamide.

reactant | 5-amino-isothiazole | NC1=CC=NS1 | C3H4N2S
reactant | 2,6-dimethoxybenzoyl chloride | 1.1 g | COC1=C(C(=O)Cl)C(=CC=C1)OC | C9H9ClO3
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N-[3-(1,1-dimethylethyl)-5-isothiazolyl]-2,6-dimethoxybenzamide | 340 mg, Yield 30% | CC(C)(C)C1=NSC(=C1)NC(C1=C(C=CC=C1OC)OC)=O | C16H20N2O3S
